US09101616B2
Step-3: (1S*,2S*)-2-(4-(2-(4,4-difluoropiperidin-1-yl)-2-oxoethoxy)phenyl)-N-((R)-1-(5-(2,2, 2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide
A mixture of HBTU (28 mg, 0.075 mmol), triethylamine (0.03 mL, 0.25 mmol), 4,4-difluoropiperidine hydrochloride (9.5 mg, 0.060 mmol) and 2-(4-((1S*,2S*)-2-(((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)carbamoyl)cycl opropyl)phenoxy)acetic acid (28 mg, 0.050 mmol) was stirring for 4 hours at room temperature. The mixture was poured into 2 mol/l hydrochloric acid, and the aqueous layer was extracted with ethyl acetate, dried over sodium sulfate and concentrated in vacuo. The residue was purified by preparative LC-MS to give 13.7 mg (50% yield) of the title compound.

reactant | HBTU | 0.075 mmol, 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.25 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4-difluoropiperidine hydrochloride | 0.060 mmol, 9.5 mg | Cl.FC1(CCNCC1)F
reactant | 2-(4-((1S*,2S*)-2-(((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)carbamoyl)cycl opropyl)phenoxy)acetic acid | 0.050 mmol, 28 mg | FC(COC=1C=CC(=NC1)[C@@H](C)NC(=O)[C@@H]1[C@H](C1)C1=CC=C(OCC(=O)O)C=C1)(F)F | C21H21F3N2O5
reactant | hydrochloric acid | 2 mol/l | Cl | ClH
product | (1S*,2S*)-2-(4-(2-(4,4-difluoropiperidin-1-yl)-2-oxoethoxy)phenyl)-N-((R)-1-(5-(2,2, 2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide | 13.7 mg, 50% yield | FC1(CCN(CC1)C(COC1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F)=O)F | C26H28F5N3O4
